US06107329
3-Bromo-5-chloro-1H-indole-2-carboxylic acid
To a solution of 5-chloro-1H-indole-2-carboxylic acid (2.0 g, 10.2 mmol) in acetic acid (24 mL) was added a solution of bromine (0.53 mL, 10.2 mmol) in acetic acid (16 mL). After 20 minutes, the mixture was poured into water and extracted with chloroform twice. The combined extracts were washed with water twice and brine, dried over magnesium sulfate and concentrated. The product was obtained as a solid (2.6 g, 89%).

reactant | 5-chloro-1H-indole-2-carboxylic acid | 10.2 mmol, 2.0 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | bromine | 10.2 mmol, 0.53 mL | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 24 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
product | 3-Bromo-5-chloro-1H-indole-2-carboxylic acid | 2.6 g, 89% | BrC1=C(NC2=CC=C(C=C12)Cl)C(=O)O | C9H5BrClNO2
